US05230981
Synthesis of 4-t-butyl-6-(2,4,6-trichlorobenzenesulfonylimino)-2,4-cyclohexadienone
In 500 ml of ethyl acetate were dispersed 60.0 g of 4-t-butyl-2-(2,4,6-trichlorobenzenesulfonylamino)phenol and 63.8 g of manganese dioxide. The mixture was refluxed upon heating for 1 hour. After cooling the mixture, inorganic substances were filtered out with Celite. The solvent was then evaporated to obtain orange crystals. The crystals were used in the next reaction without further purification.

reactant | 4-t-butyl-2-(2,4,6-trichlorobenzenesulfonylamino)phenol | 60.0 g | C(C)(C)(C)C1=CC(=C(C=C1)O)NS(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl | C16H16Cl3NO3S
solvent | ethyl acetate | 500 ml | C(C)(=O)OCC | C4H8O2
catalyst | manganese dioxide | 63.8 g | [O-2].[O-2].[Mn+4]
product | 4-t-butyl-6-(2,4,6-trichlorobenzenesulfonylimino)-2,4-cyclohexadienone | C(C)(C)(C)C=1C=CC(C(C1)=NS(=O)(=O)C1=C(C=C(C=C1Cl)Cl)Cl)=O | C16H14Cl3NO3S
